US04672127
5-(o-Hydroxybenzylidene)-hydantoin was prepared in the same manner as in Example 4, except that 22.2 g (0.25 mol) of β-alanine and 61.1 g (0.50 mol) of o-hydroxybenzaldehyde were used in lieu of glycine and p-hydroxybenzaldehyde, respectively, and that the reaction time was 6 hours. During the reaction, the pH of the reaction mixture was 9.6 to 9.2.

reactant | β-alanine | 0.25 mol, 22.2 g | NCCC(=O)O | C3H7NO2
reactant | o-hydroxybenzaldehyde | 0.50 mol, 61.1 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 5-(o-Hydroxybenzylidene)-hydantoin | OC1=C(C=C2C(NC(N2)=O)=O)C=CC=C1 | C10H8N2O3
